### PR TITLE
[Merged by Bors] - feat(RingTheory/Ideal/Colon): add a few API lemmas

### PR DESCRIPTION
**Pull request by tb65536**
This PR adds a few missing API lemmas to `RingTheory/Ideal/Colon`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Colon.lean [hunk 1]
```diff
@@ -95,6 +95,11 @@ lemma inf_colon : (N₁ ⊓ N₂).colon S = N₁.colon S ⊓ N₂.colon S := by
 lemma iInf_colon {ι : Sort*} (f : ι → Submodule R M) : (⨅ i, f i).colon S = ⨅ i, (f i).colon S := by
   aesop (add simp mem_colon)
 
+@[simp]
+lemma colon_finset_inf {ι : Type*} (s : Finset ι) (f : ι → Submodule R M) :
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Colon.lean]:
```suggestion
lemma colon_finsetInf {ι : Type*} (s : Finset ι) (f : ι → Submodule R M) :
```

File: Mathlib/RingTheory/Ideal/Colon.lean [hunk 2]
```diff
@@ -111,17 +116,24 @@ lemma colon_iUnion {ι : Sort*} (f : ι → Set M) : N.colon (⋃ i, f i) = ⨅
 lemma colon_empty : N.colon (∅ : Set M) = ⊤ := by
   aesop (add simp mem_colon)
 
+@[simp]
+lemma colon_singleton_zero : N.colon {0} = ⊤ := by
+  aesop (add simp mem_colon)
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Colon.lean]: Adding `N.colon ((⊥ : Submodule R M) : Set M) = ⊤` might also be useful.

**Review by erdOne — COMMENTED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
